US07994196B2
5-Bromo-2-chlorobenzotrifluoride (Aldrich Co., 2.0 g) was dissolved in diethyl ether (50 ml), and the mixture was cooled to −78° C. An n-butyllithium hexane solution (2.6 M, 3.2 ml) was added to the solution and the mixture was stirred for 10 min. 1-(tert-Butoxycarbonyl)-3-piperidone (Aldrich Co., 1.6 g) was added, and the mixture was gradually warmed to room temperature. After completion of the reaction, a saturated aqueous ammonium chloride solution was added, and the mixture was extracted with diethyl ether. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (5:1-2:1)). The intermediate was dissolved in ethyl acetate, and a 4N hydrochloric acid-ethyl acetate solution (3 ml) was added. The mixture was stirred at room temperature for 3 hr. After completion of the reaction, the solvent was evaporated under reduced pressure. The precipitated solid was collected by filtration to give 3-[4-chloro-3-(trifluoromethyl)phenyl]piperidin-3-ol hydrochloride (655 mg, yield 27%).

reactant | 5-Bromo-2-chlorobenzotrifluoride | 2.0 g | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | n-butyllithium hexane | 2.6 M, 3.2 ml | CCCCCC.C(CCC)[Li]
reactant | 1-(tert-Butoxycarbonyl)-3-piperidone | 1.6 g | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-[4-chloro-3-(trifluoromethyl)phenyl]piperidin-3-ol hydrochloride | 655 mg, yield 27% | Cl.ClC1=C(C=C(C=C1)C1(CNCCC1)O)C(F)(F)F | InChI=1S/C12H13ClF3NO.ClH/c13-10-3-2-8(6-9(10)12(14,15)16)11(18)4-1-5-17-7-11;/h2-3,6,17-18H,1,4-5,7H2;1H
